US07544699B2
6-Hydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester (0.5 g, 1.62 mmol) in DCM (15 mL) was treated with copper acetate (0.59 g, 3.3 mmol), 4-tert-butylphenylboronic acid (0.87 g, 4.8 mmol), and TEA (1.0 mL, 7.9 mmol) by the general procedure G. The crude product was purified by flash column chromatography on silica gel using Hexanes:EtOAc (70:30) to give 0.35 g of 6-(4-tert-butyl-phenoxy)-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester which was deprotected using general procedure N to give 6-(4-tert-butyl-phenoxy)-1,2,3,4-tetrahydro-isoquinoline-(3S)-carboxylic acid methyl ester hydrochloride salt (0.27 g).

reactant | 6-Hydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | 1.62 mmol, 0.5 g | COC(=O)C1N(CC2=CC=C(C=C2C1)O)C(=O)OC(C)(C)C | C16H21NO5
reactant | 4-tert-butylphenylboronic acid | 4.8 mmol, 0.87 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | copper acetate | 3.3 mmol, 0.59 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 6-(4-tert-butyl-phenoxy)-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | 0.35 g | COC(=O)C1N(CC2=CC=C(C=C2C1)OC1=CC=C(C=C1)C(C)(C)C)C(=O)OC(C)(C)C | C26H33NO5
